US08440693B2
Intermediate 16.1: 3-((R)-sec-Butoxy)-4-methoxy-benzaldehyde
To a solution of 3-hydroxy-4-methoxy-benzaldehyde (4 g, 26.3 mmol), PPh3 (9.65 g, 36.8 mmol) and (S)-butan-2-ol (2.9 ml, 31.5 mmol) in DCM (100 ml) was slowly added DTAD (9.08 g, 39.4 mmol) at 0° C. (ice bath). After the addition, the yellow solution was allowed to warm to RT and further stirred for 30 min. The reaction mixture was washed successively with HCl 2M in water (2×) and Na2CO3 2M. The organic phase was dried over Na2SO4, filtered and evaporated to dryness. The resulting crude material was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, heptane/TBME 95:5→7:3) to yield the title compound (2.42 g, 11.6 mmol, 44%) as a light yellow oil. TLC: RF=0.4 (heptane/TBME 1:1); HPLC: AtRet=1.93 min; LC-MS: m/z 209.2 [M+H]+; 1H NMR (400 MHz, DMSO-d6): 0.93 (t, J=7.5, 3H), 1.24 (d, J=6.1, 3H), 1.53-1.75 (m, 2H), 3.87 (s, 3H), 4.38-4.47 (m, 1H), 7.18 (d, J=8.3, 1H), 7.39 (d, J=1.7, 1H), 7.54 (dd, J=8.3, 2.0, 1H), 9.83 (s, 1H).

reactant | 3-hydroxy-4-methoxy-benzaldehyde | 26.3 mmol, 4 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | PPh3 | 36.8 mmol, 9.65 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (S)-butan-2-ol | 31.5 mmol, 2.9 ml | C[C@@H](CC)O | C4H10O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-((R)-sec-Butoxy)-4-methoxy-benzaldehyde | 11.6 mmol, 2.42 g, 44% | [C@@H](C)(CC)OC=1C=C(C=O)C=CC1OC | C12H16O3
